* D:\Benutzer\Chrisu\Desktop\git\spice\LTSpice\Projekte\masterarbeit\differenzverstaerker\differenzverstaerker.asc
M1 vd vg 0 0 NMOS l=28n w=56n
M2 vd vg 0 0 NMOS
VDD vd 0 .8
VG vg 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.dc VG 0 .8 .01
.inc D:\Benutzer\Chrisu\Desktop\git\spice\Spice Modells\22nm MOSFET/22nm_PTM-original.lib
.backanno
.end
