* D:\Elektronik\LTSpice\Projekte\masterarbeit\stromspiegel\stromspiegel.asc
V1 N001 0 .8
R1 N001 N002 20
M1 N001 N002 0 0 NMOS l=22n w={w}
M2 N002 N002 0 0 NMOS l=22n w=44n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.inc D:\Elektronik\Spice Modells\22nm MOSFET\22nm_PTM-original.lib
.op
.step param w 44n 176n 44n
.backanno
.end
